US09216999B2
Phenyl (3-methylisothiazol-5-yl)carbamate
3-Methylisothiazol-5-amine (156 mg, 1.04 mmol) in pyridine (1.2 mL) was mixed with phenyl chloroformate (260 μL, 2.07 mmol) under cooling with ice and stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure, and after addition of water, extracted with chloroform twice, and the organic layer was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1 (v/v)) to give the title compound as a pale yellow solid (173 mg, yield 71%).

reactant | 3-Methylisothiazol-5-amine | 1.04 mmol, 156 mg | CC1=NSC(=C1)N | C4H6N2S
reactant | phenyl chloroformate | 2.07 mmol, 260 μL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | pyridine | 1.2 mL | N1=CC=CC=C1 | C5H5N
product | Phenyl (3-methylisothiazol-5-yl)carbamate | 173 mg, yield 71% | CC1=NSC(=C1)NC(OC1=CC=CC=C1)=O | C11H10N2O2S
